US05428065
N,N'-bis(N-tert.butoxycarbonyl-3-amino propyl)-4-(6-phenylhexyloxy)-1,3-benzenedimethanamine (MS: M+H+ =627) was prepared from 4-(6-phenylhexyloxy)-1,3-benzenedicarboxaldehyde and N-tert.butoxycarbonyl-3-aminopropanamine using the method in Example 2.

reactant | 4-(6-phenylhexyloxy)-1,3-benzenedicarboxaldehyde | C1(=CC=CC=C1)CCCCCCOC1=C(C=C(C=C1)C=O)C=O | C20H22O3
reactant | N-tert.butoxycarbonyl-3-aminopropanamine | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
product | N,N'-bis(N-tert.butoxycarbonyl-3-amino propyl)-4-(6-phenylhexyloxy)-1,3-benzenedimethanamine | C(C)(C)(C)OC(=O)NCCCNCC1=CC(=C(C=C1)OCCCCCCC1=CC=CC=C1)CNCCCNC(=O)OC(C)(C)C | C36H58N4O5
